US08193182B2
Propan-2-amine (2001)(59 g, 1.0 mol) and ethyl chloroacetate (122 g, 1.0 mol) were dissolved in toluene (200 mL and the mixture was stirred at reflux for 2 h. The reaction mixture was allowed to cool to RT, poured into ice-water (500 mL) and extracted with ethyl acetate (3×250 mL). The combined organic layer was washed with brine (50 mL), dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (10-50% EA/PE) to afford the product, ethyl 2-(isopropylamino)acetate (2002) (70 g, 51% yield) as an oil.

reactant | Propan-2-amine | 1.0 mol, 59 g | CC(C)N | C3H9N
reactant | ethyl chloroacetate | 1.0 mol, 122 g | ClCC(=O)OCC | C4H7ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(isopropylamino)acetate | 70 g, 51% yield | C(C)(C)NCC(=O)OCC | C7H15NO2
